// Generated for: spectre
// Generated on: Apr 29 15:24:02 2026
// Design library name: ESE6680_PROJECT3
// Design cell name: Test1
// Design view name: schematic
simulator lang=spectre
global 0
include "/lcars/home/e/ese6680/ami06.scs"

// Library name: ESE6680_PROJECT3
// Cell name: m_opamp
// View name: schematic
subckt m_opamp GND VDD Vin\+ Vin\- Vout
    M4 (net77 net74 GND GND) ami06N w=8.7u l=1.8u as=1.305e-11 \
        ad=1.305e-11 ps=20.4u pd=20.4u m=1 region=sat
    M3 (net74 net74 GND GND) ami06N w=8.7u l=1.8u as=1.305e-11 \
        ad=1.305e-11 ps=20.4u pd=20.4u m=1 region=sat
    M6 (Vout net77 GND GND) ami06N w=58.05u l=900n as=8.7075e-11 \
        ad=8.7075e-11 ps=119.1u pd=119.1u m=1 region=sat
    M7 (Vout net73 VDD VDD) ami06P w=133.95u l=1.2u as=2.00925e-10 \
        ad=2.00925e-10 ps=270.9u pd=270.9u m=1 region=sat
    M5 (net81 net73 VDD VDD) ami06P w=40.05u l=1.2u as=6.0075e-11 \
        ad=6.0075e-11 ps=83.1u pd=83.1u m=1 region=sat
    M8 (net73 net73 VDD VDD) ami06P w=40.05u l=1.2u as=6.0075e-11 \
        ad=6.0075e-11 ps=83.1u pd=83.1u m=1 region=sat
    M2 (net77 Vin\+ net81 VDD) ami06P w=49.95u l=1.8u as=7.4925e-11 \
        ad=7.4925e-11 ps=102.9u pd=102.9u m=1 region=sat
    M1 (net74 Vin\- net81 VDD) ami06P w=49.95u l=1.8u as=7.4925e-11 \
        ad=7.4925e-11 ps=102.9u pd=102.9u m=1 region=sat
    Iref (net73 GND) isource type=dc dc=60u m=1
    Cc (net84 Vout) capacitor c=1p m=1
    Rc (net77 net84) resistor r=1K m=1
ends m_opamp
// End of subcircuit definition.

// Library name: ESE6680_PROJECT3
// Cell name: Final_MDAC
// View name: schematic
subckt Final_MDAC GND Phi1 Phi1E Phi2 VDD Vin\+ Vin\- Vout
    N2 (Vout Phi2 net100 GND) ami06N w=1.5u l=600n as=2.25e-12 ad=2.25e-12 \
        ps=6u pd=6u m=1 region=sat
    N1 (net102 Phi1 net100 GND) ami06N w=1.5u l=600n as=2.25e-12 \
        ad=2.25e-12 ps=6u pd=6u m=1 region=sat
    N0 (net99 Phi1E net107 GND) ami06N w=1.5u l=600n as=2.25e-12 \
        ad=2.25e-12 ps=6u pd=6u m=1 region=sat
    N3 (Vin\+ Phi2 net97 GND) ami06N w=1.5u l=600n as=2.25e-12 ad=2.25e-12 \
        ps=6u pd=6u m=1 region=sat
    N4 (net97 Phi1 Vin\- GND) ami06N w=1.5u l=600n as=2.25e-12 ad=2.25e-12 \
        ps=6u pd=6u m=1 region=sat
    N6 (iPhi2 Phi2 GND GND) ami06N w=1.5u l=600n as=2.25e-12 ad=2.25e-12 \
        ps=6u pd=6u m=1 region=sat
    N5 (iPhi1 Phi1 GND GND) ami06N w=1.5u l=600n as=2.25e-12 ad=2.25e-12 \
        ps=6u pd=6u m=1 region=sat
    P1 (Vout iPhi2 net100 VDD) ami06P w=1.5u l=600n as=2.25e-12 \
        ad=2.25e-12 ps=6u pd=6u m=1 region=sat
    P2 (net102 iPhi1 net100 VDD) ami06P w=1.5u l=600n as=2.25e-12 \
        ad=2.25e-12 ps=6u pd=6u m=1 region=sat
    P0 (net97 iPhi1 Vin\- VDD) ami06P w=1.5u l=600n as=2.25e-12 \
        ad=2.25e-12 ps=6u pd=6u m=1 region=sat
    P3 (Vin\+ iPhi2 net97 VDD) ami06P w=1.5u l=600n as=2.25e-12 \
        ad=2.25e-12 ps=6u pd=6u m=1 region=sat
    P5 (iPhi2 Phi2 VDD VDD) ami06P w=1.5u l=600n as=2.25e-12 ad=2.25e-12 \
        ps=6u pd=6u m=1 region=sat
    P4 (iPhi1 Phi1 VDD VDD) ami06P w=1.5u l=600n as=2.25e-12 ad=2.25e-12 \
        ps=6u pd=6u m=1 region=sat
    Cf (net99 net100) capacitor c=1p m=1
    Cs (net97 net99) capacitor c=2p m=1
    V2 (net102 GND) vsource type=dc dc=2.5
    V0 (net106 GND) vsource type=dc dc=2.5
    V1 (net107 GND) vsource type=dc dc=2.5
    I0 (GND VDD net106 net99 Vout) m_opamp
ends Final_MDAC
// End of subcircuit definition.

// Library name: ESE6680_PROJECT3
// Cell name: inv
// View name: schematic
subckt inv IN OUT VDD
    N0 (OUT IN 0 0) ami06N w=1.5u l=600n as=2.25e-12 ad=2.25e-12 ps=6u \
        pd=6u m=1 region=sat
    P0 (OUT IN VDD VDD) ami06P w=3u l=600n as=4.5e-12 ad=4.5e-12 ps=9u \
        pd=9u m=1 region=sat
ends inv
// End of subcircuit definition.

// Library name: ESE6680_PROJECT3
// Cell name: nand
// View name: schematic
subckt nand A B OUT VDD
    N1 (net9 B 0 0) ami06N w=1.5u l=600n as=2.25e-12 ad=2.25e-12 ps=6u \
        pd=6u m=1 region=sat
    N0 (OUT A net9 0) ami06N w=1.5u l=600n as=2.25e-12 ad=2.25e-12 ps=6u \
        pd=6u m=1 region=sat
    P1 (OUT B VDD VDD) ami06P w=3u l=600n as=4.5e-12 ad=4.5e-12 ps=9u \
        pd=9u m=1 region=sat
    P0 (OUT A VDD VDD) ami06P w=3u l=600n as=4.5e-12 ad=4.5e-12 ps=9u \
        pd=9u m=1 region=sat
ends nand
// End of subcircuit definition.

// Library name: ESE6680_PROJECT3
// Cell name: non_overlapping_clock
// View name: schematic
subckt non_overlapping_clock CLK Phi1 Phi1E Phi2 VDD
    I195 (net024 net017 VDD) inv
    I25 (net028 Phi1 VDD) inv
    I194 (net025 Phi1E VDD) inv
    I189 (net023 Phi2 VDD) inv
    I29 (net021 net025 VDD) inv
    I17 (net013 net021 VDD) inv
    I28 (net017 net022 VDD) inv
    I14 (CLK net049 VDD) inv
    I155 (net011 net024 VDD) inv
    I83 (net022 net013 net023 VDD) nand
    I82 (Phi1E net011 net028 VDD) nand
    I15 (CLK net011 net013 VDD) nand
    I16 (net049 net013 net011 VDD) nand
ends non_overlapping_clock
// End of subcircuit definition.

// Library name: ESE6680_PROJECT3
// Cell name: Test1
// View name: schematic
I0 (0 Phi1 Phi1E Phi2 net09 Vin\+ Vin\- Vout) Final_MDAC
I3 (net013 Phi1 Phi1E Phi2 net09) non_overlapping_clock
V2 (net09 0) vsource type=dc dc=5
V1 (Vin\- 0) vsource type=dc dc=2.5
V3 (net013 0) vsource type=pulse val0=0 val1=5 period=100n delay=0 \
        rise=10p fall=10p width=50n
V4 (Vin\+ 0) vsource type=sine sinedc=2.5 ampl=1 freq=100K
simulatorOptions options reltol=1e-3 vabstol=1e-6 iabstol=1e-12 temp=27 \
    tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 maxnotes=5 maxwarns=5 \
    digits=5 cols=80 pivrel=1e-3 sensfile="../psf/sens.output" \
    checklimitdest=psf 
tran tran stop=10u write="spectre.ic" writefinal="spectre.fc" \
    annotate=status maxiters=5 
finalTimeOP info what=oppoint where=rawfile
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
saveOptions options save=allpub
